US07342007B2
b. 2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-N-isobutyl-N-[(1S)-1-phenylprop-2-en-1-yl]pent-4-enamide (9b)
To a solution of (2S)-2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)pent-4-enoic acid (467 mg), EDAC.HCl (529 mg), and dimethyl aminopyridine (20 mg) in DCM (10 ml) at −20° C. under N2 was added a solution of (1S)-N-isobutyl-1-phenylprop-2-en-1-amine in DCM (6 ml). The mixture was allowed to stir at −20° C. for 1 hr then RT overnight. The next day the reaction was diluted with DCM and extracted with 0.1 N HCl. The aqueous layer was back extracted with DCM (×2). All organics were combined, dried (Na2SO4), filtered and evaporated. The resulting residue was purified by column chromatography (20% EtAOc/Hexane) to afford the title compound as a mixture of diastereomers in the form of a clear oil (628 mg, 82%). 1H NMR (300 MHz, d6-DMSO) δ 0.50-0.732 (m, 7H), 1.24-1.98 (m, 3H), 2.15-2.26 (m, 1H), 2.73-3.3 (m, 4H), 4.74-5.42 (m, 4H), 5.75-6.24 (m, 3H), 6.99-7.38 (m, 5H), 7.79-7.88 (m, 4H). MS APCI, m/z=417 (M+1), LC/MS, 2.93 min.

reactant | (2S)-2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)pent-4-enoic acid | 467 mg | O=C1N(C(C2=CC=CC=C12)=O)[C@H](C(=O)O)CC=C | C13H11NO4
reactant | EDAC.HCl | 529 mg | CCN=C=NCCCN(C)C.Cl
reactant | dimethyl aminopyridine | 20 mg | CC1=C(C(=NC=C1)N)C | C7H10N2
reactant | (1S)-N-isobutyl-1-phenylprop-2-en-1-amine | C(C(C)C)N[C@@H](C=C)C1=CC=CC=C1 | C13H19N
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 6 ml | C(Cl)Cl | CH2Cl2
product | 2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-N-isobutyl-N-[(1S)-1-phenylprop-2-en-1-yl]pent-4-enamide | O=C1N(C(C2=CC=CC=C12)=O)C(C(=O)N([C@@H](C=C)C1=CC=CC=C1)CC(C)C)CC=C | C26H28N2O3
